US06824882B2
To a mixture of 12.50 g of 4-(nonafluorobutyl)-1-butanol and 150 mL of 48 weight percent hydrobromic acid was slowly added 15 mL of concentrated sulfuric acid. The reaction mixture was heated at 100° C. for 18 hr, and then poured into 500 mL of water. The mixture was extracted with hexanes, and the combined organic phases were washed with saturated aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. Filtration and concentration afforded 12.50 g of crude 1-bromo-4-(nonafluorobutyl)butane as a light amber liquid, which was used without further purification.

reactant | 4-(nonafluorobutyl)-1-butanol | 12.50 g | FC(C(C(CCCCO)(F)F)(F)F)(C(F)(F)F)F | C8H9F9O
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 mL | O | H2O
product | 1-bromo-4-(nonafluorobutyl)butane | 12.50 g | BrCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8H8BrF9
